US04614614
Example 14: N-allyl-N-phenylthiomethyl-(R)-glycidic acid amide
Analogously to Example 5, 8.45 g (50 mmol) of 2-(S)-bromo-3-hydroxypropionic acid in 200 ml of tetrahydrofuran is converted using 15.2 g (100 mmol) of 1,5-diazabicyclo[5.4.0]undec-5-ene into the DBU salt of (R)-glycidic acid. To the latter there are added in situ in methylene chloride at room temperature, 10.31 g (50 mmol) of dicyclohexyl carbodiimide and then, at 0°, 10.75 g (50 mmol) of N-allyl-N-phenylthiomethylammonium chloride. The resulting mixture is stirred for a further 3 hours at room temperature. The crystalline dicyclohexylurea is filtered off with suction, methylene chloride is added to the filtrate and the whole is washed with phosphate buffer having a pH of 8.0. The crude product obtained from the organic phase by drying over sodium sulphate and concentration by evaporation in vacuo is chromatographed over 500 g of silica gel using toluene/ethyl acetate (9:1) and the pure title compound is obtained in the form of a colourless oil.

reactant | 2-(S)-bromo-3-hydroxypropionic acid | 50 mmol, 8.45 g | Br[C@H](C(=O)O)CO | C3H5BrO3
reactant | 1,5-diazabicyclo[5.4.0]undec-5-ene | 100 mmol, 15.2 g | N12CCCN=CC2CCCC1 | C9H16N2
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | (R)-glycidic acid | C([C@H]1CO1)(=O)O | C3H4O3
reactant | dicyclohexyl carbodiimide | 50 mmol, 10.31 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-allyl-N-phenylthiomethylammonium chloride | 50 mmol, 10.75 g | [Cl-].C(C=C)[NH2+]CSC1=CC=CC=C1
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-allyl-N-phenylthiomethyl-(R)-glycidic acid amide | C(C=C)N(C([C@H]1CO1)=O)CSC1=CC=CC=C1 | C13H15NO2S
